US09340544B2
(4-Chloro-phenyl)-(2-hydrazino-9-isobutyl-9H-purin-6-yl)-amine
Was prepared according to Example 8 from (2-chloro-9-isobutyl-9H-purin-6-yl)(4-chloro-phenyl)-amine and hydrazine monohydrate.

reactant | (2-chloro-9-isobutyl-9H-purin-6-yl)(4-chloro-phenyl)-amine | ClC1=NC(=C2N=CN(C2=N1)CC(C)C)NC1=CC=C(C=C1)Cl | C15H15Cl2N5
reactant | hydrazine monohydrate | O.NN
product | (4-Chloro-phenyl)-(2-hydrazino-9-isobutyl-9H-purin-6-yl)-amine | ClC1=CC=C(C=C1)NC1=C2N=CN(C2=NC(=N1)NN)CC(C)C | C15H18ClN7
